US05338856
A. Preparation of Trifluoroacetamidoacetone
Aminoacetone hydrochloride (13.29 g, 121 mmol) was slurried in 200 mL of dichloromethane and stirred vigorously as 22 mL (146 mmol) of trifluoroacetic acid was added. The mixture was heated to reflux with stirring for about 1 hour at which time the evolution of gas had ceased. The resulting mixture was concentrated by evaporation at 60° C. and the residue was dissolved in 200 mL of ether. Solid sodium bicarbonate was cautiously added with stirring until foaming ceased. The resulting slurry was filtered through a 2×5 cm silica gel plug and the plug was eluted with an additional 100 mL of ether. The combined filtrates were concentrated by evaporation at temperatures up to 60° C. The residue was kugelrohr distilled at a pot temperature of 100°-110° C. and a pressure of 18 torr (2.4 kPa) to obtain 9.7 g (47 percent of theory) of the title compound as a waxy white solid. An analytical sample prepared by recrystallization from pentane was a white solid melting at 71°-73° C.

reactant | Aminoacetone hydrochloride | 121 mmol, 13.29 g | Cl.NCC(C)=O
reactant | trifluoroacetic acid | 146 mmol, 22 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Trifluoroacetamidoacetone | FC(C(=O)NCC(C)=O)(F)F | C5H6F3NO2
